US05703075
Preparation of 3-Chloro-2-(4-morpholinyl)-4H-1-benzopyran-4-one, Compound 22
2-(4-Morpholinyl)-4H-benzopyran-4-one (2.0 g, 8.0 mmol) is dissolved in CH2Cl2 (20 mL). t-Butyl hypochlorite (1.0 mL, 8.5 mmol) is added dropwise at 23° C. The reaction mixture is warmed slightly and is finished almost instantaneously. The solvent is removed in vacuo and the residue is taken up in EtOAc (200 mL). The organic layer is washed with water (2×50 mL) and brine (80 mL), then dried (MgSO4). The solution is concentrated in vacuo giving colorless crystals which are recrystallized from EtOAc to give the desired product (1.86 g, 91%) Mp 127°-8° C.; IR (mull) 2962, 2923, 2856, 1635, 1612, 1597, 1562, 1555, 1466, 1457, 1325, 1233, 1119, 872, 762 cm-1 ; 1H NMR (200 Mhz, CDCl3, δ) 8.20 (br d, J=7.5 Hz, 1H), 7.60 (ddd, J=9.1, 6.7, 1.7 Hz, 1H), 7.36 (m, 2 H), 3.88 (m, 4H), 3.74 (m, 4H); MS m/e (rel intensity) 267 (33), 266 (15), 265 (100), 231 (15), 230 (98), 209 (16), 207 (45), 120 (27), 110 (19), 41 (16); UV (EtOH) λ max (ε) 214 (18,900), 238 (18,160), 300 sh (11,530); Anal. calc'd. for C13H12NO3Cl: C, 58.76; H, 4.55; N, 5.27. Found: C, 58.82; H, 4.58; N, 5.37.

reactant | 2-(4-Morpholinyl)-4H-benzopyran-4-one | 8.0 mmol, 2.0 g | N1(CCOCC1)C=1OC2=C(C(C1)=O)C=CC=C2 | C13H13NO3
reactant | t-Butyl hypochlorite | 8.5 mmol, 1.0 mL | ClOC(C)(C)C | C4H9ClO
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | 3-Chloro-2-(4-morpholinyl)-4H-1-benzopyran-4-one | 1.86 g, 91% | ClC1=C(OC2=C(C1=O)C=CC=C2)N2CCOCC2 | C13H12ClNO3
